### PR TITLE
feat(ErdosProblems/562): asymptotic growth of hypergraph Ramsey numbers

### LINKED ISSUE #792: Erdős Problem 562
### What is the conjecture
    
https://www.erdosproblems.com/562

  Let $R_r(n)$ denote the $r$-uniform hypergraph Ramsey number: the minimal $m$ such that if we $2$-colour all edges of the complete $r$-uniform hypergraph on $m$ vertices then there must be some monochromatic copy of the complete $r$-uniform hypergraph on $n$ vertices.

Prove that, for $r\geq 3$,
$$\log_{r-1} R_r(n) \asymp_r n,$$
where $\log_{r-1}$ denotes the $(r-1)$-fold iterated logarithm. That is, does $R_r(n)$ grow like 
$$2^{2^{\cdots n}}$$
where the tower of exponentials has height $r-1$?
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ruskaruma**
## Summary
Formalizes Erdős Problem 562, which conjectures that the $r$-uniform hypergraph Ramsey number grows like a tower of exponentials of height $r-1$.

## The Conjecture
Let $R_r(n)$ denote the $r$-uniform hypergraph Ramsey number. Prove that for $r \ge 3$,
$$ \log_{r-1} R_r(n) \asymp_r n $$
where $\log_{r-1}$ denotes the $(r-1)$-fold iterated logarithm.

## Reference
[erdosproblems.com/562](https://www.erdosproblems.com/562)

## What's Added
- `HypergraphRamsey`: Definition of $r$-uniform hypergraph Ramsey number in [ForMathlib/Combinatorics/Ramsey.lean](cci:7://file:///home/ruskaruma/Desktop/GITHUB/formal-conjectures/FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean:0:0-0:0)
- `erdos_562`: Main conjecture statement in [ErdosProblems/562.lean](cci:7://file:///home/ruskaruma/Desktop/GITHUB/formal-conjectures/FormalConjectures/ErdosProblems/562.lean:0:0-0:0)

Closes #792

### CODE REVIEW

**Comment by ruskaruma** [comment]
@YaelDillies please review this when you have a chance. I've placed the Ramsey definition directly in [ForMathlib](cci:7://file:///home/ruskaruma/Desktop/GITHUB/formal-conjectures/FormalConjectures/ForMathlib:0:0-0:0), the minimized namespace opens to align with strict style preferences and I have also verified that the local build runs perfectly.

File: FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+
+This file defines the `r`-uniform hypergraph Ramsey number `R_r(n)`.
+-/
+
+
+namespace Combinatorics
+
+
+
+/--
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean]:
```suggestion
/--
```

File: FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean [hunk 2]
```diff
@@ -0,0 +1,41 @@
...
+The `r`-uniform hypergraph Ramsey number `R_r(n)`.
+The smallest natural number `m` such that every 2-coloring of the `r`-subsets of a set of size `m`
+contains a monochromatic subset of size `n`.
+-/
+noncomputable def HypergraphRamsey (r n : ℕ) : ℕ :=
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean]:
```suggestion
noncomputable def hypergraphRamsey (r n : ℕ) : ℕ :=
```

Comment (YaelDillies) [inline FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean]: Could you show `n \le hypergraphRamsey r n` and `hypergraphRamsey r r = r`, just to make sure the definition is correct?

File: FormalConjectures/ErdosProblems/562.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+monochromatic copy of the complete $r$-uniform hypergraph on $n$ vertices.
+
+Prove that, for $r \ge 3$,
+$$ \log_{r-1} R_r(n) \asymp_r n, $$
+where $\log_{r-1}$ denotes the $(r-1)$-fold iterated logarithm. That is, does $R_r(n)$ grow like
+a tower of exponentials of height $r-1$?
+
+*Reference:* [erdosproblems.com/562](https://www.erdosproblems.com/562)
+-/
+
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/562.lean]:
```suggestion
/-!
# Erdős Problem 562

Let $R_r(n)$ denote the $r$-uniform hypergraph Ramsey number: the minimal $m$ such that if we
$2$-colour all edges of the complete $r$-uniform hypergraph on $m$ vertices then there must be some
monochromatic copy of the complete $r$-uniform hypergraph on $n$ vertices.

Prove that, for $r \ge 3$,
$$ \log_{r-1} R_r(n) \asymp_r n, $$
where $\log_{r-1}$ denotes the $(r-1)$-fold iterated logarithm. That is, does $R_r(n)$ grow like
a tower of exponentials of height $r-1$?

*Reference:* [erdosproblems.com/562](https://www.erdosproblems.com/562)
-/

open Combinatorics Filter Real
open scoped Asymptotics

```

File: FormalConjectures/ErdosProblems/562.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+$2$-colour all edges of the complete $r$-uniform hypergraph on $m$ vertices then there must be some
+monochromatic copy of the complete $r$-uniform hypergraph on $n$ vertices.
+
+Prove that, for $r \ge 3$,
+$$ \log_{r-1} R_r(n) \asymp_r n, $$
+where $\log_{r-1}$ denotes the $(r-1)$-fold iterated logarithm.
+-/
+@[category research open, AMS 05]
+theorem erdos_562 (r : ℕ) (hr : 3 ≤ r) :
+    (fun n ↦ Real.log^[r - 1] (Combinatorics.HypergraphRamsey r n)) =Θ[Filter.atTop] (fun n ↦ (n : ℝ)) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/562.lean]:
```suggestion
theorem erdos_562 : answer(sorry) ↔
    \forall r \ge 3, (fun n ↦ log^[r - 1] hypergraphRamsey r n) ~[atTop] (fun n ↦ (n : ℝ)) := by
```

**Comment by ruskaruma** [comment]
@YaelDillies, there was a small syntax error in the suggested code (`\forall r \ge 3` instead of `∀ r ≥ 3`) which I overlooked when committing. I've fixed this now and also added the verification lemmas you requested (`le_hypergraphRamsey` and `hypergraphRamsey_self`). The build passes locally. Could you please review when you get a chance?

File: FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean (hunk 2 above)
Comment (ruskaruma) [reply FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean]: I've added `le_hypergraphRamsey` and `hypergraphRamsey_self` in the latest commit.

File: FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean [hunk 5]
```diff
@@ -36,4 +36,30 @@ noncomputable def hypergraphRamsey (r n : ℕ) : ℕ :=
...
+  have h_mem : r ∈ { m | ∀ (c : Finset (Fin m) → Bool),
+      ∃ (S : Finset (Fin m)), S.card = m ∧
+        ∃ (color : Bool), ∀ (e : Finset (Fin m)), e ⊆ S → e.card = r → c e = color } := by
+    intro c
+    refine ⟨Finset.univ, ?_, c Finset.univ, ?_⟩
+    · simp [Fintype.card_fin]
+    · intro e _ he_card
+      congr 1
+      exact Finset.eq_univ_of_card e (he_card.trans (Fintype.card_fin r).symm)
+  refine le_antisymm (Nat.sInf_le h_mem) (le_hypergraphRamsey r r ⟨r, h_mem⟩)
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/Combinatorics/Ramsey.lean]:
```suggestion
  exact le_antisymm (Nat.sInf_le h_mem) (le_hypergraphRamsey r r ⟨r, h_mem⟩)
```

**Comment by ruskaruma** [comment]
@YaelDillies thanks for the suggestion here. This should finalise this in my opinion here.
